US09119868B2
A suspension of 6-(N-(4-bromophenyl)methylsulfonamido)-5-cyclopropyl-2-(4-fluorophenyl)-N-methylbenzofuran-3-carboxamide (150 mg, 0.269 mmol), potassium acetate (80 mg, 0.807 mmol), bis(pinacolato)diboron (205 mg, 0.807 mmol), and Pd(dppf)Cl2 dichloromethane complex (22 mg, 0.027 mmol) in 1,4-dioxane (20 mL) was maintained at 95° C. with stirring overnight. The solution was cooled to room temperature, filtered, concentrated to dryness, and purified by column chromatography to afford 5-cyclopropyl-2-(4-fluorophenyl)-N-methyl-6-(N-(4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)methylsulfonamido)benzofuran-3-carboxamide (152 mg, 0.251 mmol, 94% yield) as a brown solid. LCMS (m/z, ES+)=605 (M+H+)

reactant | 6-(N-(4-bromophenyl)methylsulfonamido)-5-cyclopropyl-2-(4-fluorophenyl)-N-methylbenzofuran-3-carboxamide | 0.269 mmol, 150 mg | BrC1=CC=C(C=C1)N(S(=O)(=O)C)C1=CC2=C(C(=C(O2)C2=CC=C(C=C2)F)C(=O)NC)C=C1C1CC1 | C26H22BrFN2O4S
reactant | potassium acetate | 0.807 mmol, 80 mg | C(C)(=O)[O-].[K+]
reactant | bis(pinacolato)diboron | 0.807 mmol, 205 mg | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
solvent | 1,4-dioxane | 20 mL | O1CCOCC1 | C4H8O2
product | 5-cyclopropyl-2-(4-fluorophenyl)-N-methyl-6-(N-(4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)methylsulfonamido)benzofuran-3-carboxamide | 0.251 mmol, 152 mg, 94% yield | C1(CC1)C=1C(=CC2=C(C(=C(O2)C2=CC=C(C=C2)F)C(=O)NC)C1)N(S(=O)(=O)C)C1=CC=C(C=C1)B1OC(C(O1)(C)C)(C)C | C32H34BFN2O6S
